US07632838B2
2-(4-{[(2R)-4-(2,4-difluorophenyl)-2-methylpiperazin-1-yl]sulfonyl}phenyl)-1,1,1-trifluoropropan-2-ol
To a solution of (R)-1-(4-(4-(2,4-difluorophenyl)-2-methylpiperazin-1-ylsulfonyl)phenyl)ethanone (360 mg, 0.87 mmol, prepared according to procedures similar to those described in Example 29A) was added TMSCF3 (5.2 mL, 0.5 M in THF, 2.6 mmol) and TBAF (0.87 mL, 1 M in THF, 1.0 mmol) at 0° C. The resultant mixture was stirred for 6 h then rt overnight. It washed with aq. NH4Cl and aq. layer was extracted with DCM. The organic layer was dried over Na2SO4. The crude product was purified on SiO2 column eluted with hexanes/EtOAc to give the desired product as a white solid (329 mg, 81%). HRMS: calcd for C20H21F5N2O3S+H+, 465.12658. found (ESI-FTMS, [M+H]1+), 465.12565.

reactant | (R)-1-(4-(4-(2,4-difluorophenyl)-2-methylpiperazin-1-ylsulfonyl)phenyl)ethanone | FC1=C(C=CC(=C1)F)N1C[C@H](N(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C)=O)C | C19H20F2N2O3S
reactant | TMSCF3 | 2.6 mmol, 0.5 M, 5.2 mL | [Si](C)(C)(C)C(F)(F)F | C4H9F3Si
reactant | TBAF | 1.0 mmol, 1 M, 0.87 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 2-(4-{[(2R)-4-(2,4-difluorophenyl)-2-methylpiperazin-1-yl]sulfonyl}phenyl)-1,1,1-trifluoropropan-2-ol | 329 mg, 81% | FC1=C(C=CC(=C1)F)N1C[C@H](N(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(F)(F)F)(C)O)C | C20H21F5N2O3S
